US08648066B2
1-{5-ethyl-4-methyl-6-[7-(2-methyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]pyrimidin-2-yl}-N,N-dimethylmethanamine.
Prepared as a diacetate salt by the method of example 6 using 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate and 1-(4-chloro-5-ethyl-6-methylpyrimidin-2-yl)-N,N-dimethylmethanamine (reagent preparation 17) in step 3. 1H NMR (400 MHz, DMSO-d6) δ 8.51 (br s, 1H), 8.03 (br s, 1H), 7.67 (d, 1H), 7.52 (dd, 1H), 7.02 (d, 1H), 4.63 (s, 2H), 4.35-4.30 (m, 2H), 3.83-3.78 (m, 2H), 3.32 (s, 2H), 2.65-2.57 (m, 1H), 2.54 (s, 3H), 2.52-2.45 (m, 1H (buried)), 2.36 (s, 3H), 2.10 (s, 6H), 1.86 (s, 8H), 1.15 (t, 3H); MS (EI) for C28H31N7O: 458 (MH+).

reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
reactant | 2-methylpropyl 2-methyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate | CC=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OCC(C)C | C21H24N4O3
reactant | 1-(4-chloro-5-ethyl-6-methylpyrimidin-2-yl)-N,N-dimethylmethanamine | ClC1=NC(=NC(=C1CC)C)CN(C)C | C10H16ClN3
product | 1-{5-ethyl-4-methyl-6-[7-(2-methyl-3H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]pyrimidin-2-yl}-N,N-dimethylmethanamine | C(C)C=1C(=NC(=NC1N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)NC(=N1)C)CN(C)C)C | C26H31N7O
